US07402595B2
6-chloro-3-(1-hydroxypentyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one
In the same manner as in Example 313, the title compound was synthesized using 6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde and a solution (2M) of n-butylmagnesium chloride in THF. Crystals (ethyl acetate-diisopropyl ether).

reactant | 6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C=O)C1=CC=CC=C1 | C24H18ClNO4S
reactant | n-butylmagnesium chloride | 2M | C(CCC)[Mg]Cl
reactant | ethyl acetate diisopropyl ether | C(C)(=O)OCC.C(C)(C)OC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 6-chloro-3-(1-hydroxypentyl)-2-(4-methanesulfonylbenzyl)-4-phenyl-2H-isoquinolin-1-one | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CCCC)O)C1=CC=CC=C1 | C28H28ClNO4S
